US08686004B2
Stage 1: 3-(4-Bromopyrazol-1-yl)pyridine
3-Pyrazol-1-ylpyridine (500 mg, 3.44 mmol) was dissolved in acetonitrile (15 ml), and ammonium cerium(IV) nitrate (944 mg, 1.72 mmol) was added (slightly exothermic). N-Bromosuccinimide (736 mg, 4.13 mmol) was added in portions (slightly exothermic) and the mixture was stirred at room temperature for 30 minutes (min) and then heated under reflux for 3 hours (h). After the mixture had cooled, ethyl acetate was added. The organic phase was washed with water, washed with a sodium sulphate solution and then dried over magnesium sulphate. The solvent was removed on a rotary evaporator under reduced pressure.

reactant | 3-Pyrazol-1-ylpyridine | 3.44 mmol, 500 mg | N1(N=CC=C1)C=1C=NC=CC1 | C8H7N3
reactant | ammonium cerium(IV) nitrate | 1.72 mmol, 944 mg | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | N-Bromosuccinimide | 4.13 mmol, 736 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-(4-Bromopyrazol-1-yl)pyridine | BrC=1C=NN(C1)C=1C=NC=CC1 | C8H6BrN3
